US09278983B2
To a mixture of methyl (2-amino-5-trifluoromethylpyridin-3-yl)-carbamate (100 mg) and THF (15 ml), lithium aluminum hydride (25 mg) was added under ice-cooling. The mixture was stirred for 15 minutes under ice-cooling, heated to 90° C., and stirred with heating for 1.5 hours. Into the reaction mixture cooled to room temperature, aqueous sodium hydroxide solution was poured, and extracted with tert-butyl methyl ether. The organic layer was dried over sodium sulfate, and concentrated under reduced pressure. The resulting residue was subjected to silica gel column chromatography to give 77 mg of N3-methyl-5-trifluoromethylpyridin-2,3-diamine.

reactant | methyl (2-amino-5-trifluoromethylpyridin-3-yl)-carbamate | 100 mg | NC1=NC=C(C=C1NC(OC)=O)C(F)(F)F | C8H8F3N3O2
reactant | lithium aluminum hydride | 25 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | sodium hydroxide | [OH-].[Na+]
solvent | THF | 15 ml | C1CCOC1 | C4H8O
product | N3-methyl-5-trifluoromethylpyridin-2,3-diamine | 77 mg | CNC=1C(=NC=C(C1)C(F)(F)F)N | C7H8F3N3
